US05578627
To a solution of 0.10 g of 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-(N-methyl-N-tert-butoxycarbonylamino)-1,2-benzoisoxazole in 5 ml of methanol is added 1.2 ml of a dioxane solution (2.2N) of hydrogen chloride at 5°-10° C., and they are subjected to reaction at 20°-25° C. overnight. The solvent is removed from the reaction mixture by distillation under reduced pressure, and the residue obtained is crystallized from 2-propanol, after which the crystals are collected by filtration to obtain 0.03 g of colorless, crystalline 3-(2-amino-3-carbamoyloxypropoxy)-5-methylamino-1,2-benzoisoxazole hydrochloride having a melting point of 179°-185° C.

reactant | 3-(3-carbamoyloxy-2-tert-butoxycarbonylaminopropoxy)-5-(N-methyl-N-tert-butoxycarbonylamino)-1,2-benzoisoxazole | 0.10 g | C(N)(=O)OCC(COC1=NOC2=C1C=C(C=C2)N(C(=O)OC(C)(C)C)C)NC(=O)OC(C)(C)C | C22H32N4O8
reactant | dioxane | 2.2N, 1.2 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-(2-amino-3-carbamoyloxypropoxy)-5-methylamino-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)NC)COC(N)=O | InChI=1S/C12H16N4O4.ClH/c1-15-8-2-3-10-9(4-8)11(16-20-10)18-5-7(13)6-19-12(14)17;/h2-4,7,15H,5-6,13H2,1H3,(H2,14,17);1H
